US09227971B2
To a solution of 4-tert-butyl 3-methyl 5-hydroxy-4H-1,2,4-triazole-3,4-dicarboxylate (0.170 g, 0.453 mmol) in THF (4 mL) was added 2-methoxyethanol (0.053 mL, 0.672 mmol), DEAD (0.107 mL, 0.682 mmol), PPh3 (0.142 g, 0.542 mmol) and stirred at it for 15 h. Reaction concentrated and ISCO purification (0-5% MeOH in DCM) to get methyl 5-(2-methoxyethoxy)-4H-1,2,4-triazole-3-carboxylate (0.050 g) as a colorless oil.

reactant | 4-tert-butyl 3-methyl 5-hydroxy-4H-1,2,4-triazole-3,4-dicarboxylate | 0.453 mmol, 0.170 g | OC=1N(C(=NN1)C(=O)OC)C(=O)OC(C)(C)C | C9H13N3O5
reactant | 2-methoxyethanol | 0.672 mmol, 0.053 mL | COCCO | C3H8O2
reactant | DEAD | 0.682 mmol, 0.107 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | PPh3 | 0.542 mmol, 0.142 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | methyl 5-(2-methoxyethoxy)-4H-1,2,4-triazole-3-carboxylate | 0.050 g | COCCOC=1NC(=NN1)C(=O)OC | C7H11N3O4
